US07470705B2
Step 2. Preparation of 2-Ethyl-3-methyl-4-(5,6,7,8-tetrahydro-quinolin-3-ylamino)-3,4,6,7,8,9-hexahydro-2H-benzo[b][1,5]napthyridine-1-carboxylic acid isopropyl ester.
Prepare the title compound by essentially following the procedure described in Example 46, Step 2, by replacing (+/−)-cis-N-(6-methoxy-2-methyl-1,2,3,4-tetrahydro-[1,5]naphthyridin-4-yl)acetamide, with (2-ethyl-3-methyl-1,2,3,4,6,7,8,9-octahydro benzo [b][1,5]napthyridin-4yl)-(5,6,7,8-tetrahydro-quinolin-3-yl)-amine (0.575 g, 1.52 mmol), and using isopropyl chloroformate, pyridine, and dimethylaminopyridine. Purify using silica gel column chromatography (gradient eluent, neat ethyl acetate) to provide the title compound (0.218 g, 31%). MS (ES+): 463 (M+H).

reactant | (+/−)-cis-N-(6-methoxy-2-methyl-1,2,3,4-tetrahydro-[1,5]naphthyridin-4-yl)acetamide | COC=1N=C2[C@@H](C[C@@H](NC2=CC1)C)NC(C)=O | C12H17N3O2
reactant | (2-ethyl-3-methyl-1,2,3,4,6,7,8,9-octahydro benzo [b][1,5]napthyridin-4yl)-(5,6,7,8-tetrahydro-quinolin-3-yl)-amine | 1.52 mmol, 0.575 g | C(C)C1NC=2C=C3C(=NC2C(C1C)NC=1C=NC=2CCCCC2C1)CCCC3 | C24H32N4
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-Ethyl-3-methyl-4-(5,6,7,8-tetrahydro-quinolin-3-ylamino)-3,4,6,7,8,9-hexahydro-2H-benzo[b][1,5]napthyridine-1-carboxylic acid isopropyl ester | 0.218 g, 31% | C(C)(C)OC(=O)N1C=2C=C3C(=NC2C(C(C1CC)C)NC=1C=NC=2CCCCC2C1)CCCC3 | C28H38N4O2
